M5 (VOUT1 VIN1 net14 VB1) pmos4
M1 (VOUT1 VDD net16 VB1) pmos4
M0 (net16 VB1 VB1 VB1) pmos4
M4 (VDD VB1 net14 VSS) nmos4
? Missing component
M2 (VOUT1 VDD net15 VSS) nmos4
